US07199147B2
A solution of 3-amino-N,N-dibenzylcyclohexane-carboxamide monohydrochloride (0.848 g) in tetrahydrofuran (5 ml) was added dropwise to a suspension of lithium aluminum hydride (0.337 g, 8.89 mmol) in tetrahydrofuran (5 ml), and the resulting mixture was stirred with heating under reflux for 3 hours. The resulting solution was cooled on an ice bath, followed by adding dropwise thereto water (0.33 ml), a 2N-aqueous sodium hydroxide solution (0.66 ml) and water (1.0 ml) in that order. Thereafter, the insoluble material was removed by filtration using Celite. The solvent was distilled off from the filtrate under reduced pressure, followed by replacement with ethanol (once) and toluene (twice). Then, the residue was dried under reduced pressure to obtain 3-[(dibenzylamino)methyl]cyclohexanamine (0.550 g, 99%).

reactant | 3-amino-N,N-dibenzylcyclohexane-carboxamide monohydrochloride | 0.848 g | Cl.NC1CC(CCC1)C(=O)N(CC1=CC=CC=C1)CC1=CC=CC=C1
reactant | lithium aluminum hydride | 8.89 mmol, 0.337 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 0.33 ml | O | H2O
reactant | sodium hydroxide | 0.66 ml | [OH-].[Na+]
reactant | water | 1.0 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[(dibenzylamino)methyl]cyclohexanamine | 0.550 g, 99% | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)CC1CC(CCC1)N | C21H28N2
